US08491906B2
36.5 g (113 mmol) of Z-Gly-Gly-OtBu were dissolved in 11 THF followed by the addition of 3.65 g palladium on charcoal (10%). The mixture was stirred under H2 atmosphere (1 atm) for 3 h at room temperature. The suspension was purged with N2, filtered (PTFE-filter: 0.45 μm) and the filtrate was concentrated under reduced pressure yielding 20.3 g (95%) Gly-Gly-O-tBu as a yellow oil. The crude material was pure enough for further synthesis.

reactant | Z-Gly-Gly-OtBu | 113 mmol, 36.5 g | N(CC(=O)NCC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C16H22N2O5
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | 3.65 g | [Pd] | Pd
product | Gly-Gly-O-tBu | 20.3 g, 95% | NCC(=O)NCC(=O)OC(C)(C)C | C8H16N2O3
